US06395741B1
Sodium (35.65 g) is gradually added to ethylene glycol (1.3 liter) at 23-75° C., and thereto is added N-[6-chloro-5-(4-methylphenyl)pyrimidin-4-yl]-4-[2-(2-tetrahydropyranyloxy)-1,1-dimethylethyl]benzenesulfonamide (160 g) at 4° C. The mixture is stirred at 100° C. for 16 hours, and allowed to cool to room temperature. The reaction mixture is poured into a mixture of a saturated aqueous ammonium chloride solution and ethyl acetate under ice-cooling, and the mixture is extracted with ethyl acetate. The extract is washed with a saturated aqueous sodium chloride solution, and the organic layer is dried over anhydrous sodium sulfate and activated carbon. The solid materials are removed by filtration through a Celite pad, and the filtrate is concentrated under reduced pressure. The residue is crystallized from ethyl acetate-diisopropyl ether to give N-[6-(2-hydroxyethoxy)-5-(4-methylphenyl)-pyrimidin-4-yl]-4-[2-(2-tetrahydropyranyloxy)-1,1-dimethyl-ethyl]benzenesulfonamide (80.26 g) as colorless crystals. In addition, the mother liquor is concentrated, and the resultant is recrystallized from ethyl acetate-diisopropyl ether to give the crystals of the above compound (73.1 g).

reactant | Sodium | 35.65 g | [Na] | Na
reactant | ethylene glycol | 1.3 liter | C(CO)O | C2H6O2
reactant | N-[6-chloro-5-(4-methylphenyl)pyrimidin-4-yl]-4-[2-(2-tetrahydropyranyloxy)-1,1-dimethylethyl]benzenesulfonamide | 160 g | ClC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(COC1OCCCC1)(C)C)C1=CC=C(C=C1)C | C26H30ClN3O4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-(2-hydroxyethoxy)-5-(4-methylphenyl)-pyrimidin-4-yl]-4-[2-(2-tetrahydropyranyloxy)-1,1-dimethyl-ethyl]benzenesulfonamide | 80.26 g | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(COC1OCCCC1)(C)C)C1=CC=C(C=C1)C | C28H35N3O6S
